US06498165B1
Step B: 2-Ethylthio-4-chloro-6-propylpyrimidine
To the solution of 2-ethylthio-4-hydroxy-6-propylpyrimidine (406 mg) in CHCl3 (6 mL) was added (chloromethylene)-dimethylammonium chloride (Villsmier reagent) (786 mg). The reaction was stirred at room temperature under nitrogen for 40 min. Filtration through silica gel followed by removal of solvent provided 380 mg of the title compound as yellowish oil. 1H NMR (500 MHz, CDCl3): δ 6.81 (s, 1H); 3.17 (q, J=7.3 Hz, 2H); 2.65 (t, J=7.5 Hz, 2H); 1.76 (m, J=7.6 Hz, 2H); 1.41 (t, J=7.3 Hz, 3H); 0.99 (t, J=7.3 Hz, 3H).

reactant | 2-ethylthio-4-hydroxy-6-propylpyrimidine | 406 mg | C(C)SC1=NC(=CC(=N1)O)CCC | C9H14N2OS
reactant | (chloromethylene)-dimethylammonium chloride | 786 mg | [Cl-].ClC=[N+](C)C
solvent | CHCl3 | 6 mL | C(Cl)(Cl)Cl | CHCl3
product | 2-Ethylthio-4-chloro-6-propylpyrimidine | 380 mg | C(C)SC1=NC(=CC(=N1)Cl)CCC | C9H13ClN2S
